Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Back pain, fever + neutropenia
 
Major Surgical or Invasive Procedure:
L psoas and prespinal biopsy
LLE skin biopsy

 
History of Present Illness:
___ F with CVID, h/o transformed follicular lymphoma and h/o CLL 
s/p auto SCT (BEAM prep) in ___ in remission from lymphoma 
standpoint but developed worsening pancytopenia and bleeding 
issues this month found to have treatment related MDS, now C1D3 
dacogen presenting with borderline neutropenia and temp today of 
100.4.

Other v/s in clinic: Vital Signs: BP: 111/53. Heart Rate:
98. O2 Saturation%: 100.  Weight: 256.6. Height: 61.25. BMI:
48.1. Temperature: 100.4. Resp. Rate: 18. Pain Score: 5 (back). 

Given functional neutropenia, admitted for treatment of febrile 
neutropenia. Got vanc/cefepime in clinic. Blood cultures sent in 
clinic. She reported having some chills at the time and general 
fatigue but denied any other specific symptoms. Temp came back 
down on it's own and she was 98.9 before leaving clinic. Hgb 
7.1,
clinic orderd 1u blood which she will receive here. Regarding 
her other PMH: she is on xarelto for thrombosis history (DVT, 
also has IVCF which was placed), and has h/o bleo toxicity 
pneumonitis (off steroids now but cont with inhalers), and also 
has intermittent LBP and left sciatica due to degenerative 
disease,
on gabapentin, and she has chronic right pupil dilation and 
dysmetria.

Note she was recently admitted and discharged ___. SHe had BM 
bx ___ which showed MDS as above. She also reported nasal 
congestion and had fever ___, initially covered broadly but 
with negative cultures, ultimately discharged to complete 7d 
course of levaquin on ___. Pt states she stopped taking the 
levoquin ___ days ago. Last night took her temp and it was 100.1 
(was
instructed to monitor temps, she had no symptoms that prompted 
this check). This morning driving in to clinic appointment felt 
a bit chilled but not shaking and not sick in any other way. In 
clinic found to have temp of 100.4. Also notes that she 
typically has left sided sciatica but that in the past week sinc 
ethe bone marrow biopsy has developed right lower back pain 
which has required ___ doses of vicodin daily and is a new pain 
worsening over time, present constantly, but worse with movement 
or deep palpation. Denies loss of strength or sensation though 
has chronic right foot drop and dysesthesias at baseline after 
knee replacement on that side in the past. No incontinence or 
dysuria.

Finally, her history is significant for a "blood blister" she 
noted on the left foreleg per pt about ___ weeks ago which was 
ultimately debrided in the past, and poor wound healing 
attributed to venous stasis. THis has been healing well she 
states, though there is still an open wound surrounded by 
erythema but she is confident it continues to improve 
dramatically and no recent drainage. She is covering it with 
xeroform dressing daily.

further nose bleeds or other bleeding.  She is also noted for a 
nonhealing wound on her left leg after hitting her shin several 
weeks ago.  She is using xerofrom dressing to the area and 
changing it daily with slow healing. All other 10 point ROS neg.
 
Past Medical History:
Oncologic history: In brief, history of follicular lymphoma 
stage IIIA s/p CHOP x 6 cycles in ___ followed by CVP and 
rituximab in ___ for residual disease. ___: RICE 
chemotherapy x 3 cycles. ___ autoBMT (BEAM). ___ XRT to 
local disease. She has a hx of hypogammaglobulinemia.

Other PMH:
obesity
Acute DVT in the right popliteal/femoral veins + superficial 
thrombosis
--Transformed DLBCL with history of follicular lymphoma as noted 
above
--CLL, noted on BM biopsy on ___.
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
--Hypogammaglobulinemia, receives IVIG PRN
--R leg DVT.  IVC filter in place, on rivaroxaban
--BCNU pneumonitis, on prednisone
--Mild GERD
--OA / LBP
--Small Intestinal Bacterial Overgrowth
--Trochanteric Bursitis
--s/p Excisional Bx L Cervical Lymph Node
--s/p L total knee replacement ___, walks with cane
--s/p I&D Labial Abscess
--s/p Excision Cyst R ___ Digit of Hand
 
Social History:
___
Family History:
brother - lymphoma

 
Physical ___:
ADMISSION EXAM:
General: NAD  
T 99.6 BP 100/58  HR 95  20  96%RA
HEENT: Right pupil slower to react to light which is baseline.  
MMM, no OP lesions or thrush.  
CV: RR, NL S1S2 no MRG  
PULM: CTAB no wheezing or crackles  
ABD: BS+, soft, NTND  
SKIN/limbs: left anterior foreleg with 1cm open circular wound 
without drainage, covered w/xeroform, with 4-5 cm diameter 
surrounding erythema, not warm to touch, lower extr are equal in 
girth, no pitting edema
Back: pt is tender to palpation around the left SI joint, has 
resolving hematoma over the medial aspect of right sacrum, but 
no tenderness over the hematoma which appears superficial, no 
swelling

DISCHARGE EXAM:
VS: 98.1 ___ 22 97RA
GEN: NAD, seated in chair, conversational
HEENT: AT/NC; R pupil mildly larger, slower to react than L 
(baseline per records); MMM
CV: RRR, no M/R/G, +S1/S2
PULM: CTAB
ABD: obese, soft, nontender to palpation, referred pain from 
back in band/belt distribution in low abdomen; +BS
SKIN: unroofed vesicle with mild bleeding covered with xeroform
EXT: chronic venous stasis changes in B/L ___ over shins
NEURO: A/Ox3; CNII-XII assessed and grossly intact except for 
R>L pupillary dilataion and sluggish reactivity
 
Pertinent Results:
ADMISSION LABS:
___ 11:30AM BLOOD WBC-2.3* RBC-2.28* Hgb-7.1* Hct-22.1* 
MCV-97 MCH-31.1 MCHC-32.1 RDW-21.8* RDWSD-77.3* Plt ___
___ 11:30AM BLOOD Neuts-37 Bands-6* ___ Monos-11 
Eos-0 Baso-0 Atyps-2* Metas-3* Myelos-1* Blasts-2* NRBC-3* 
AbsNeut-0.99* AbsLymp-0.92* AbsMono-0.25 AbsEos-0.00* 
AbsBaso-0.00*
___ 12:00AM BLOOD ___ PTT-39.0* ___
___ 11:30AM BLOOD UreaN-15 Creat-0.9 Na-137 K-3.8 Cl-102 
HCO3-25 AnGap-14
___ 11:30AM BLOOD ALT-8 AST-10 LD(LDH)-260* AlkPhos-81 
TotBili-0.3
___ 11:30AM BLOOD Albumin-3.4* Calcium-8.1* Mg-2.2

INTERVAL LABS:
___ 12:00AM BLOOD CRP-108.7*
___ 12:00AM BLOOD IgG-805
___ 04:00PM BLOOD HIV Ab-Negative
___ 04:00PM BLOOD CMV VL-NOT DETECT
___ 02:20PM BLOOD SED RATE-Test      
___ 04:00PM BLOOD HERPES 6 DNA PCR, QUANTITATIVE-Test      
___ 04:00PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-Test   
   
___ 07:45PM BLOOD B-GLUCAN-Test      
___ 07:45PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-Test

MICRO:
___ Skin biopsy: All cx. negative
___ RPR: negative
___ Myco/lytic cx: no growth
___ Psoas tissue cx: negative
All other blood and urine cultures final/negative

STUDIES:
Conclusions
The left atrium is mildly dilated. The left atrial volume index 
is mildly increased. The estimated right atrial pressure is ___ 
mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No masses or 
vegetations are seen on the aortic valve. No aortic valve 
abscess is seen. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Mild (1+) mitral regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. No vegetation/mass is 
seen on the pulmonic valve. There is an anterior space which 
most likely represents a prominent fat pad. 

IMPRESSION: No echocardiographic evidence of endocarditis. 
Normal biventricular cavity sizes with preserved global and 
regional biventricular systolic function. Suggestion of elevated 
LV filling pressure. Mild mitral and tricuspid regurgitation. 
Moderate pulmonary hypertension.

Compared with the prior study (images reviewed) of ___, 
the degrees of mitral and tricuspid regurgitation are slightly 
greater and the estimated pulmonary arterial pressure is higher.

IMAGING:
___ L gluteal U/S:
IMPRESSION:
Inflammation or edema of the superficial soft tissues without 
focal fluid
collection.

___ MR ___:
IMPRESSION:
1. Severe multilevel degenerative changes as described above 
have slightly
progressed since the prior examination of ___.
2. Scoliosis of lumbar spine with  signal changes and edema 
edema in the
endplates, mild adjacent soft tissue signal and enhancement and 
enhancement in the left psoas muscle at L4-5 level without 
epidural phlegmon or paraspinal fluid collection are 
nonspecific.  Both advanced degenerative changes or early 
discitis osteomyelitis could give similar appearances.  The 
appearance on the prior CT abdomen of ___ or more was 
more consistent with degenerative change. However, Correlation 
with laboratory findings is essential to exclude early discitis 
osteomyelitis.

DISCHARGE LABS:
___ 01:18AM BLOOD WBC-0.4* RBC-2.58* Hgb-7.6* Hct-23.6* 
MCV-92 MCH-29.5 MCHC-32.2 RDW-18.6* RDWSD-62.0* Plt Ct-15*
___ 01:18AM BLOOD Neuts-12* Bands-0 Lymphs-78* Monos-7 
Eos-1 Baso-0 Atyps-1* ___ Myelos-1* AbsNeut-0.05* 
AbsLymp-0.32* AbsMono-0.03* AbsEos-0.00* AbsBaso-0.00*
___ 01:18AM BLOOD ___ PTT-34.5 ___
___ 01:18AM BLOOD Glucose-147* UreaN-14 Creat-0.9 Na-136 
K-3.7 Cl-99 HCO3-27 AnGap-14
___ 12:00AM BLOOD ALT-14 AST-14 LD(LDH)-247 AlkPhos-90 
TotBili-0.5
___ 01:18AM BLOOD Calcium-8.1* Phos-2.7 Mg-2.3
___ 06:25AM BLOOD Vanco-19.___ year old female with history of transformed diffuse large B 
cell lymphoma s/p a curative attempt with an autoSCT with BEAM 
conditioning in ___ ___s IFRT with course complicated 
by BCNU pneumonitis as well as persistent norovirus p/w acute 
LBP, epistaxis, pancytopenia, diagnosed with treatment related 
MDS. ___ was started on decitabine as an outpatient and 
re-presented with fevers and neutropenia. She had an exhaustive 
workup of her fevers, including skin and psoas biopsies, and 
tissue uPCR was sent, but there was no culture positivity or 
positive findings in her infectious workup. However, after 
consultation with ID, it was decided to treat empirically for 
presumptive osteomyelitis/discitis with 6 weeks of vancomycin 
(750mg IV q12h), cefepime (2g IV q12h), micafungin (100 mg PO 
q24h). Micafungin was chosen instead of posaconazole due to 
___ differences; but she did receive posaconazole while 
inpatient. Simultaneously, the patient was having significantly 
worsened back pain after her MDS diagnosing bone marrow biopsy. 
She was started on opioid pain control, which was uptitrated and 
augmented with Valium to good effect. She went home with BID 
oxycontin, PRN oxycodone, and QHS Valium. She will follow-up as 
outpatient with Dr. ___.

# Fever + neutropenia: The patient received 2 doses of 
decitabine as outpatient prior to experiencing first fever of 
101 at home, then 100.4 in clinic during third dose decitabine 
administration. She was admitted for fever in setting of 
cytoreduction, and she eventually became truly neutropenic. An 
exhaustive workup was performed, centering on MRI findings of 
potential osteomyelitis/discitis with potential L psoas 
invovlvement. This tissue was biopsied, negative by culture, and 
uPCR pending at the time of discharge. The patient will be given 
empiric therapy of vancomycin/cefepime/micafungin for a total of 
6 weeks (___) and instructed to have 1 month follow-up 
spinal imaging. A LLE wound was also biopsied and grew nothing. 
By exclusion, decitabine is thought to be the likely culprit of 
the fever.

# left gluteal furuncle: Formed at the marked site of the ___ L 
psoas biopsy. By ultrasound found to only have subcutaneous 
edema without fluid collection. This will be followed by patient 
and outpatient team as potential new nidus of infection if 
appearing worse or causing pain.

# low back pain: Acute on chronic in this patient, who has 
baseline degenerative changes. She also had R iliac crest bone 
marrow biopsy prior to this admission which may have caused 
hematoma, inflammatory, or direct nerve injury which contributed 
to her severe pain. She was uptitrated to a pain regimen 
including standing Oxycontin BID, oxycodone PRN, and Valium QHS, 
which she was able to tolerate with good effect. She worked with 
___ and was deemed fit for discharge home with services.

# treatment related MDS: Secondary to autoSCT with BEAM 
conditioning for DLBCL. Patient had bone marrow biopsy which 
diagnosed new-onset treatment related MDS, but may have also 
caused severe acute-on-chronic back pain for which she is 
receiving opioids and benzodiazapines. Will receive Bactrim for 
PCP prophylaxis starting at discharge.

# history of DVT: History of LLE DVTs, on Rivaroxaban at home 
and IVC filter in place. Rivaroxaban was held once Plt<75k in 
setting of multi-line decline from decitabine.

# common variable immunodeficiency: Patient had multiple IgG 
checks for known CVID and did not require IVIG as inpatient.

TRANSITIONAL ISSUES:
- complete 6 week antibiotics: vancomycin, cefepime, 
micafungin(d1 = ___, end ___, follow-up with OPAT
- weekly labs: CBC with differential, BUN, Cr, Vancomycin
trough, AST, ALT (fax to ATTN: ___ CLINIC - FAX: 
___
- repeat MR ___ 1 month after discharge
- PCP prophylaxis with ___ SS daily
- plan future decitabine with Dr. ___ team
- plan for curative transplant with Dr. ___ team
- continue to monitor L gluteal furuncle
- consider restarting rivaroxaban when deemed appropriate 
(stopped inpatient due to thrombocytopenia)
- Code: Full
- Contact: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Cyanocobalamin 1000 mcg PO QHS 
3. FoLIC Acid 3.2 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Gabapentin 900 mg PO TID 
6. Omeprazole 20 mg PO DAILY 
7. Potassium Chloride 10 mEq PO DAILY 
8. Venlafaxine 25 mg PO BID 
9. Rivaroxaban 20 mg PO DAILY 
10. Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze  
11. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion 
12. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H 
13. albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing 
14. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
Pain - Mild 

 
Discharge Medications:
1.  CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 g IV every twelve (12) hours 
Disp #*60 Vial Refills:*0 
2.  Diazepam 5 mg PO QHS 
RX *diazepam 5 mg 1 tab by mouth at bedtime Disp #*7 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
4.  Micafungin 100 mg IV Q24H 
RX *micafungin [Mycamine] 100 mg 100 mg IV q24h Disp #*30 Vial 
Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*24 Tablet Refills:*0 
6.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxycodone 20 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*14 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
8.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
10.  Vancomycin 750 mg IV Q 12H 
RX *vancomycin 750 mg 750 mg IV every twelve (12) hours Disp 
#*60 Vial Refills:*0 
11.  Potassium Chloride 10 mEq PO DAILY  
12.  albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing  
13.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H  
14.  Ascorbic Acid ___ mg PO BID  
15.  Cyanocobalamin 1000 mcg PO QHS  
16.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN nasal 
congestion  
17.  FoLIC Acid 3.2 mg PO DAILY  
18.  Furosemide 20 mg PO DAILY  
19.  Gabapentin 900 mg PO TID  
20.  Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheeze   
21.  Omeprazole 20 mg PO DAILY  
22.  Venlafaxine 25 mg PO BID  
23. HELD- Rivaroxaban 20 mg PO DAILY  This medication was held. 
Do not restart Rivaroxaban until insructed to by your outpatient 
doctor
24.Outpatient Lab Work
To be drawn weekly: CBC with differential, BUN, Cr, Vancomycin 
trough, AST, ALT
Send results to: ___ CLINIC - FAX: ___
ICD 10: ___.0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
- fever and neutropenia
- low back pain
- treatment related MDS
- history of DVT
- common variable immunodeficiency
- left gluteal furuncle

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure caring for you while you were at ___. You 
came to the hospital with a fever in the setting of your 
decitabine therapy and had significantly worse back pain after 
your bone marrow biopsy several weeks back. Despite a thorough 
workup including multiple sets of blood cultures, urine 
cultures, and imaging including MRIs there was no infectious 
source found as the culprit for your fevers. You were started on 
IV antibiotics to treat a presumptive infection, which you will 
continue for six weeks. You will follow-up with the infectious 
disease physicians as an outpatient. You were started on several 
opioid pain medications and Valium which helped you be more 
active and have good pain control. 

It was a pleasure to participate in your care. We wish you all 
the best.

Sincerely,
Your ___ care team
 
Followup Instructions:
___